US07875618B2
1-(2-Chloro-phenyl)-7-(2,6-difluorobenzyloxy)-3,4-dimethyl-imidazo(1,5-a)quinoxaline
1 g 1-(2-Chloro-phenyl)-3,4-dimethyl-7-hydroxy-imidazo(1,5-a)quinoxaline, 2.24 g Caesium carbonate, 50 mL N,N-dimethylformamide, and 6 mL water were stirred for 10 min followed by addition of 0.83 g 2,6-difluorobenzylbromide. After 3 h stirring at 130° C. the reaction mixture was given into 150 mL water, filtered off, washed with water, dried under reduced pressure, and purified with silica gel, dichloromethane/methanol=95/5.

reactant | 1-(2-Chloro-phenyl)-3,4-dimethyl-7-hydroxy-imidazo(1,5-a)quinoxaline | 1 g | ClC1=C(C=CC=C1)C1=NC(=C2N1C1=CC=C(C=C1N=C2C)O)C | C18H14ClN3O
reactant | Caesium carbonate | 2.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | 2,6-difluorobenzylbromide | 0.83 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
solvent | water | 150 mL | O | H2O
solvent | water | 6 mL | O | H2O
product | 1-(2-Chloro-phenyl)-7-(2,6-difluorobenzyloxy)-3,4-dimethyl-imidazo(1,5-a)quinoxaline | ClC1=C(C=CC=C1)C1=NC(=C2N1C1=CC=C(C=C1N=C2C)OCC2=C(C=CC=C2F)F)C | C25H18ClF2N3O
